US06355642B1
1-t-Butoxycarbonyl-4-hydroxy-4-phenylpiperidine
4-Hydroxy-4-phenylpiperidine (1.0 g, 5.6 mmol) was dissolved in a mixed solvent of water (5 ml) and 1,4-dioxane (5 ml). Thereto were added sodium bicarbonate (950 mg, 11 mmol) and di-t-butyl dicarbonate (1.9 g, 8.5 mmol), and the resulting solution was stirred at a room temperature for 4 hours. The solvent was evaporated under a reduced pressure, and the thus obtained residue was mixed with dichloromethane and water. The reaction product was extracted with dichloromethane, washed with water and saturated brine and dried with anhydrous sodium sulfate. Then the material obtained by the evaporation of the solvent under a reduced pressure was thoroughly washed with hexane to obtain 1.5 g of the title compound (5.3 mmol, 94%).

reactant | 4-Hydroxy-4-phenylpiperidine | 5.6 mmol, 1.0 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | sodium bicarbonate | 11 mmol, 950 mg | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 8.5 mmol, 1.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 5 ml | O | H2O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1-t-Butoxycarbonyl-4-hydroxy-4-phenylpiperidine | 5.3 mmol, 1.5 g, 94% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)O | C16H23NO3
